**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  Current Sense Transformer
* Matchcode:              WE-CST 
* Library Type:           LTspice
* Version:                rev22b
* Created/modified by:    Toby      
* Date and Time:          2022-09-13
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************	
.subckt	749251020		8  7  1  3		
.param RxLkg=8.42ohm					
.param Leakage=0.0035uh					
Rlkg	8	8a	{RxLkg}		
L_Lkg	8	8a	{Leakage}	Rser=0.001mohm	
Lpri1	8a	7	0.297uH	Rser=0.55mohm	
Lsec1	1	3	120uH	Rser=160mohm	
K Lpri1    Lsec1        1					
.param Cprm1=1440pf					
.param Rdmp1=721.69ohm					
Cpri1	8	7	{Cprm1}	Rser=10mohm	
Rdmp1	8	7	{Rdmp1}		
Rg3	8	0	20meg		
Rg7	7	0	20meg		
Rg11	1	0	20meg		
Rg19	3	0	20meg		
.ends					


.subckt	749251030		8  7  1  3		
.param RxLkg=5.3ohm					
.param Leakage=0.0035uh					
Rlkg	8	8a	{RxLkg}		
L_Lkg	8	8a	{Leakage}	Rser=0.001mohm	
Lpri1	8a	7	0.297uH	Rser=0.55mohm	
Lsec1	1	3	270uH	Rser=396mohm	
K Lpri1    Lsec1        1					
.param Cprm1=3630pf					
.param Rdmp1=454.55ohm					
Cpri1	8	7	{Cprm1}	Rser=10mohm	
Rdmp1	8	7	{Rdmp1}		
Rg3	8	0	20meg		
Rg7	7	0	20meg		
Rg11	1	0	20meg		
Rg19	3	0	20meg		
.ends					

.subckt	749251040		8  7  1  3		
.param RxLkg=3.32ohm					
.param Leakage=0.0035uh					
Rlkg	8	8a	{RxLkg}		
L_Lkg	8	8a	{Leakage}	Rser=0.001mohm	
Lpri1	8a	7	0.297uH	Rser=0.55mohm	
Lsec1	1	3	480uH	Rser=683mohm	
K Lpri1    Lsec1        1					
.param Cprm1=9235pf					
.param Rdmp1=284.98ohm					
Cpri1	8	7	{Cprm1}	Rser=10mohm	
Rdmp1	8	7	{Rdmp1}		
Rg3	8	0	20meg		
Rg7	7	0	20meg		
Rg11	1	0	20meg		
Rg19	3	0	20meg		
.ends					

.subckt	749251050		8  7  1  3		
.param RxLkg=2.37ohm					
.param Leakage=0.0035uh					
Rlkg	8	8a	{RxLkg}		
L_Lkg	8	8a	{Leakage}	Rser=0.001mohm	
Lpri1	8a	7	0.297uH	Rser=0.55mohm	
Lsec1	1	3	750uH	Rser=1030mohm	
K Lpri1    Lsec1        1					
.param Cprm1=18170pf					
.param Rdmp1=203.17ohm					
Cpri1	8	7	{Cprm1}	Rser=10mohm	
Rdmp1	8	7	{Rdmp1}		
Rg3	8	0	20meg		
Rg7	7	0	20meg		
Rg11	1	0	20meg		
Rg19	3	0	20meg		
.ends					


.subckt	749251060		8  7  1  3		
.param RxLkg=2.05ohm					
.param Leakage=0.0035uh					
Rlkg	8	8a	{RxLkg}		
L_Lkg	8	8a	{Leakage}	Rser=0.001mohm	
Lpri1	8a	7	0.297uH	Rser=0.55mohm	
Lsec1	1	3	1080uH	Rser=1492mohm	
K Lpri1    Lsec1        1					
.param Cprm1=24400pf					
.param Rdmp1=175.32ohm					
Cpri1	8	7	{Cprm1}	Rser=10mohm	
Rdmp1	8	7	{Rdmp1}		
Rg3	8	0	20meg		
Rg7	7	0	20meg		
Rg11	1	0	20meg		
Rg19	3	0	20meg		
.ends					


.subckt	749251070		8  7  1  3		
.param RxLkg=1.68ohm					
.param Leakage=0.0035uh					
Rlkg	8	8a	{RxLkg}		
L_Lkg	8	8a	{Leakage}	Rser=0.001mohm	
Lpri1	8a	7	0.297uH	Rser=0.55mohm	
Lsec1	1	3	1470uH	Rser=1772mohm	
K Lpri1    Lsec1        1					
.param Cprm1=36201pf					
.param Rdmp1=143.94ohm					
Cpri1	8	7	{Cprm1}	Rser=10mohm	
Rdmp1	8	7	{Rdmp1}		
Rg3	8	0	20meg		
Rg7	7	0	20meg		
Rg11	1	0	20meg		
Rg19	3	0	20meg		
.ends					
	

.subckt	749251100		8  7  1  3		
.param RxLkg=1.18ohm					
.param Leakage=0.0035uh					
Rlkg	8	8a	{RxLkg}		
L_Lkg	8	8a	{Leakage}	Rser=0.001mohm	
Lpri1	8a	7	0.297uH	Rser=0.55mohm	
Lsec1	1	3	3000uH	Rser=3886mohm	
K Lpri1    Lsec1        1					
.param Cprm1=73540pf					
.param Rdmp1=100.99ohm					
Cpri1	8	7	{Cprm1}	Rser=10mohm	
Rdmp1	8	7	{Rdmp1}		
Rg3	8	0	20meg		
Rg7	7	0	20meg		
Rg11	1	0	20meg		
Rg19	3	0	20meg		
.ends					

.subckt	749251125		8  7  1  3		
.param RxLkg=0.96ohm					
.param Leakage=0.0035uh					
Rlkg	8	8a	{RxLkg}		
L_Lkg	8	8a	{Leakage}	Rser=0.001mohm	
Lpri1	8a	7	0.297uH	Rser=0.55mohm	
Lsec1	1	3	4687.5uH	Rser=4894mohm	
K Lpri1    Lsec1        1					
.param Cprm1=111406pf					
.param Rdmp1=82.05ohm					
Cpri1	8	7	{Cprm1}	Rser=10mohm	
Rdmp1	8	7	{Rdmp1}		
Rg3	8	0	20meg		
Rg7	7	0	20meg		
Rg11	1	0	20meg		
Rg19	3	0	20meg		
.ends					

.subckt	749251150		8  7  1  3		
.param RxLkg=1.71ohm					
.param Leakage=0.009uh					
Rlkg	8	8a	{RxLkg}		
L_Lkg	8	8a	{Leakage}	Rser=0.001mohm	
Lpri1	8a	7	0.291uH	Rser=0.55mohm	
Lsec1	1	3	6750uH	Rser=8044mohm	
K Lpri1    Lsec1        1					
.param Cprm1=231750pf					
.param Rdmp1=56.89ohm					
Cpri1	8	7	{Cprm1}	Rser=10mohm	
Rdmp1	8	7	{Rdmp1}		
Rg3	8	0	20meg		
Rg7	7	0	20meg		
Rg11	1	0	20meg		
Rg19	3	0	20meg		
.ends					
	

.subckt	749251200		8  7  1  3		
.param RxLkg=1.4ohm					
.param Leakage=0.008uh					
Rlkg	8	8a	{RxLkg}		
L_Lkg	8	8a	{Leakage}	Rser=0.001mohm	
Lpri1	8a	7	0.292uH	Rser=0.55mohm	
Lsec1	1	3	12000uH	Rser=14180mohm	
K Lpri1    Lsec1        1					
.param Cprm1=271200pf					
.param Rdmp1=52.59ohm					
Cpri1	8	7	{Cprm1}	Rser=10mohm	
Rdmp1	8	7	{Rdmp1}		
Rg3	8	0	20meg		
Rg7	7	0	20meg		
Rg11	1	0	20meg		
Rg19	3	0	20meg		
.ends					


.subckt	749251250		8  7  1  3		
.param RxLkg=0.75ohm					
.param Leakage=0.007uh					
Rlkg	8	8a	{RxLkg}		
L_Lkg	8	8a	{Leakage}	Rser=0.001mohm	
Lpri1	8a	7	0.293uH	Rser=0.55mohm	
Lsec1	1	3	18750uH	Rser=19940mohm	
K Lpri1    Lsec1        1					
.param Cprm1=718750pf					
.param Rdmp1=32.3ohm					
Cpri1	8	7	{Cprm1}	Rser=10mohm	
Rdmp1	8	7	{Rdmp1}		
Rg3	8	0	20meg		
Rg7	7	0	20meg		
Rg11	1	0	20meg		
Rg19	3	0	20meg		
.ends					
	
